US09061013B2
N-(3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutyl)cyclopropanecarboxamide
Cyclopropylcarbonylchloride (14.1 μL, 0.10 mmol) is added to 3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutanamine (Preparation 16, 50.0 mg, 0.10 mmol) in DMF (1.5 mL) along with DIPEA (5.4 μL, 0.31 mmol) and DMAP (1.2 mg, 0.01 mmol). The reaction mixture is stirred for three days at room temperature. The mixture is partitioned between brine (5 mL) and EtOAc (5 mL). The organics are separated, dried over MgSO4, filtered and evaporated to give a residue, which is purified on regular silica eluting from neat DCM to 15% MeOH/DCM to give the title compound (22 mg): 1H NMR (DMSO-d6) δ: 8.83 (1H, d), 7.88 (2H, s), 7.79 (2H, d), 7.58 (2H, d), 4.61-4.53 (1H, m), 4.42-4.30 (2H, m), 2.89-2.78 (2H, m), 2.65-2.55 (2H, m), 1.50-1.44 (1H, m), 0.71-0.61 (4H, m); m/z (Cl) 548.

reactant | Cyclopropylcarbonylchloride | 0.10 mmol, 14.1 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutanamine | 0.10 mmol, 50.0 mg | FC1(CC(C1)N)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C20H15Cl3F4N2O
reactant | DIPEA | 0.31 mmol, 5.4 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.01 mmol, 1.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutyl)cyclopropanecarboxamide | 22 mg | FC1(CC(C1)NC(=O)C1CC1)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H19Cl3F4N2O2
